US06730674B2
Step 4: 6-Oxo-1,6-dihydro-pyridazine-3-sulfonic Acid methyl-phenyl-amide
A mixture of 6-methoxy-pyridazine-3-sulfonic acid methyl-phenyl-amide (239 mg), dioxane (4 mL) and concentrated hydrochloric acid (1 mL) was prepared and refluxed for one hour. The mixture was then evaporated to dryness. The resulting solid was triturated with water and the solid was collected to afford the title compound (75%, 171 mg); mp, 157-158° C.

reactant | 6-methoxy-pyridazine-3-sulfonic acid methyl-phenyl-amide | 239 mg | CN(S(=O)(=O)C=1N=NC(=CC1)OC)C1=CC=CC=C1 | C12H13N3O3S
reactant | hydrochloric acid | 1 mL | Cl | ClH
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | 6-Oxo-1,6-dihydro-pyridazine-3-sulfonic Acid methyl-phenyl-amide | 171 mg, 75% | CN(S(=O)(=O)C1=NNC(C=C1)=O)C1=CC=CC=C1 | C11H11N3O3S
